US07220759B2
The obtained 3-(1-t-butoxycarbonyl-2-hydroxymethylpiperidin-4-yl)-2H-isoquinolin-1-one (616 mg) was dissolved in ethyl acetate, and 4N hydrogen chloride-ethyl acetate solution (2.0 ml) was added to the solution, and the mixture was stirred at room temperature for 6.5 hr. The reaction mixture was concentrated, and the precipitated crystals were washed with diethyl ether and dried under reduced pressure to give 3-(2-hydroxymethylpiperidin-4-yl)-2H-isoquinolin-1-one hydrochloride (433 mg).

reactant | 3-(1-t-butoxycarbonyl-2-hydroxymethylpiperidin-4-yl)-2H-isoquinolin-1-one | 616 mg | C(C)(C)(C)OC(=O)N1C(CC(CC1)C=1NC(C2=CC=CC=C2C1)=O)CO | C20H26N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 2.0 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-hydroxymethylpiperidin-4-yl)-2H-isoquinolin-1-one hydrochloride | 433 mg | Cl.OCC1NCCC(C1)C=1NC(C2=CC=CC=C2C1)=O | InChI=1S/C15H18N2O2.ClH/c18-9-12-7-11(5-6-16-12)14-8-10-3-1-2-4-13(10)15(19)17-14;/h1-4,8,11-12,16,18H,5-7,9H2,(H,17,19);1H
